US07585874B2
1-(5-Methyl-3-phenyl-isoxazol-4-yl)-2-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-8-yloxy]-ethanone
As described for Example 2, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (140 mg, 0.5 mmol) was converted, using 2-amino-3-hydroxypyridine instead of 2-amino-3-methylpyridine, to the title compound (18 mg, 7%) which was obtained as a yellow foam. MS: m/e=491.3 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-3-hydroxypyridine | NC1=NC=CC=C1O | C5H6N2O
product | 1-(5-Methyl-3-phenyl-isoxazol-4-yl)-2-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-8-yloxy]-ethanone | 18 mg, 7% | CC1=C(C(=NO1)C1=CC=CC=C1)C(COC=1C=2N(C=CC1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2)=O | C29H22N4O4
